US09290485B2
d) [5-({[1-(4-Hydroxymethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester
A mixture of 1-(4-Hydroxymethyl-benzyl)-1H-pyrazole-4-carboxylic acid (220 mg, 0.95 mmol), (5-Aminomethyl-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (238 mg, 0.95 mmol), HATU (7206 mg, 1.90 mmol) and DIPEA (0.64 mL, 2.84 mmol) in 5 mL DMF was stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo, dissolved in ethylacetate and extracted with aq. NaHCO3-solution. The organic layer was dried over MgSO4 and evaporated. The crude product was purified by preparative HPLC (Waters Sunfire Prep C18 PBD 5 um, 30×100 mm, 5 to 100% ACN and 0.1% TFA, flow 40ml/min). LCMS (method A) RtA=1.243 min; [M+H]+=466.0.

reactant | 1-(4-Hydroxymethyl-benzyl)-1H-pyrazole-4-carboxylic acid | 0.95 mmol, 220 mg | OCC1=CC=C(CN2N=CC(=C2)C(=O)O)C=C1 | C12H12N2O3
reactant | (5-Aminomethyl-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.95 mmol, 238 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CN)C)=O | C13H21N3O2
reactant | HATU | 1.90 mmol, 7206 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.84 mmol, 0.64 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [5-({[1-(4-Hydroxymethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CO)C)=O | C25H31N5O4
